US04963677
7-Amino-6-mercapto-3,4-dihydro-2(1H)quinolone hydrochloride
To a solution containing 11,0 g of 3-chloro-4,6dinitrophenypropionic acid in 100 ml of ethanol, 5.6g of sodiumsulfide nonahydrate and 0,8 g of sulphur in 5 ml of water were added. The solution was stirred for 1 h at 60° C. and cooled The intermediate product, bis(3-carboxyethyl-4,6-dinitrophenyl) disulfide, was filtered, washed with water and dissolved in 150 ml of 90% acetic acid. 15,0 g of zinc dust was gradually added while stirring at room temperature. The mixture was then refluxed for 30 min and filtered. The filtrate was saturated with gaseous hydrogen chloride, concentrated in vacuo and ether was added. The product was filtered. Yield 4,8 g, m.p. 177° C.

reactant | 3-chloro-4,6dinitrophenypropionic acid | 11,0 g | ClC=1C=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])C(C(=O)O)C | C9H7ClN2O6
reactant | sodiumsulfide nonahydrate | 5.6g | O.O.O.O.O.O.O.O.O.[Na+].[SH-]
reactant | sulphur | 0,8 g | [S] | S
reactant | bis(3-carboxyethyl-4,6-dinitrophenyl) disulfide | C(=O)(O)CCC=1C=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])SSC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CCC(=O)O | C18H14N4O12S2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 7-Amino-6-mercapto-3,4-dihydro-2(1H)quinolone hydrochloride | Cl.NC1=C(C=C2CCC(NC2=C1)=O)S | InChI=1S/C9H10N2OS.ClH/c10-6-4-7-5(3-8(6)13)1-2-9(12)11-7;/h3-4,13H,1-2,10H2,(H,11,12);1H
